US08476425B1
L-arginine (1.16 g) was charged to the reactor and dissolved in a mixture of deionized water-acetone (1:1, v/v, 40 mL) by mechanically stirring at 300 rpm, 30° C. over 5 min. Tazobactam acid (2.00 g) was then added to the above solution over 2 min with the observed pH change from 10.5±0.5 to 5.9±0.5. After adding 34.5 mL of acetone over 30 min at 30° C., crystallization started, then the suspension was cooled down to 15° C. at 0.1° C./min and kept stirring at 15° C. for additional 1.5 hr. White fine needle crystals were filtered out and vacuum dried for 2 hours at 35° C. to obtain 2.59 g (82% yield) of tazobactam arginine polymorph Ia.

reactant | L-arginine | 1.16 g | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | Tazobactam acid | 2.00 g | C[C@@]1([C@@H](N2[C@H](S1(=O)=O)CC2=O)C(=O)O)CN3C=CN=N3 | C10H12N4O5S
reactant | acetone | 34.5 mL | CC(=O)C | C3H6O
solvent | water acetone | 40 mL | O.CC(=O)C
product | tazobactam arginine | 2.59 g, 82% yield | C[C@@]1([C@@H](N2[C@H](S1(=O)=O)CC2=O)C(=O)O)CN3C=CN=N3.N[C@@H](CCCNC(N)=N)C(=O)O | InChI=1S/C10H12N4O5S.C6H14N4O2/c1-10(5-13-3-2-11-12-13)8(9(16)17)14-6(15)4-7(14)20(10,18)19;7-4(5(11)12)2-1-3-10-6(8)9/h2-3,7-8H,4-5H2,1H3,(H,16,17);4H,1-3,7H2,(H,11,12)(H4,8,9,10)/t7-,8+,10+;4-/m10/s1
